*********************************************************************
*  NICHICON CORPORATION and MoDeCH confidential
*  Date                 : 09/30/2016
*  File Name            : PCR1J101MCL1GS_v100.lib
*  Part Number          : PCR1J101MCL1GS
*  Simulator            : PSpice
*  Model Type           : RC-ladder 7 Elements Capacitor Model
*  Parameter Ver.       : Ver.1.00
*********************************************************************
* Modeling Conditions:
*   Temperature = 20 degC
*   DC Bias Voltage = 0 V
*   Small Signal Operation
*********************************************************************
* record (history):
* Ver.1.00 09/30/2016
*********************************************************************
*$
.SUBCKT PCR1J101MCL1GS 1 2
L1 1 3 2.043e-009
R1 3 4 0.012735
C1 4 2 7.9913e-005 IC={IC}
R2 4 5 0.16425
C2 5 2 1.6402e-005
R3 5 6 7.2006
C3 6 2 2.9296e-006
.ENDS
